US05407451
Synthesis of 1,2-dihydroxypropane octyl sulfide borate
A solution of 1,2-dihydroxypropane octyl sulfide (70 g), prepared as described in Example 5, n-butanol (60 g), and toluene (60 g) was heated to 60° C., and 13.1 g of boric acid were added. The expected amount of water was removed by azeotropic distillation with a maxima reaction temperature of 115° C. The reaction solution was filtered through diatomaceous earth. Solvent was removed by high speed rotary evaporation under reduced pressure yielding a pale yellow fluid product.

reactant | 1,2-dihydroxypropane octyl sulfide | 70 g | C(CCCCCCC)SCCCCCCCC.OCC(C)O
reactant | n-butanol | 60 g | C(CCC)O | C4H10O
reactant | boric acid | 13.1 g | B(O)(O)O | BH3O3
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-dihydroxypropane octyl sulfide borate | B(O)(O)O.C(CCCCCCC)SCCCCCCCC.OCC(C)O | InChI=1S/C16H34S.C3H8O2.BH3O3/c1-3-5-7-9-11-13-15-17-16-14-12-10-8-6-4-2;1-3(5)2-4;2-1(3)4/h3-16H2,1-2H3;3-5H,2H2,1H3;2-4H
